US07691882B2
3-(3-(4-(5-Fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
Tetrahydrofuran (10 mL) and 5 N aqueous sodium hydroxide solution (448 μL, 2.24 mmol) were added to 4-(5-(2-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (600 mg, 2.24 mmol) described in Manufacturing Example 5-1-1, which was irradiated by ultrasonic wave for 1 minute. The reaction solution was then concentrated under a reduced pressure to obtain a white solid. 2-Chloromethyl-5-fluoro-pyridine (359 mg, 2.46 mol) described in Manufacturing Example 41-2 and N,N-dimethylformamide (10 mL) were added to the resulting white solid and stirred for 1 hour at 60° C. After being cooled to room temperature, the reaction solution was partitioned into water and ethyl acetate. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (650 mg, 77%).

reactant | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2.24 mmol, 5 N, 448 μL | [OH-].[Na+]
reactant | 4-(5-(2-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 2.24 mmol, 600 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | 2-Chloromethyl-5-fluoro-pyridine | 2.46 mol, 359 mg | ClCC1=NC=C(C=C1)F | C6H5ClFN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(5-Fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 650 mg, 77% | FC=1C=CC(=NC1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H17FN4O2
